US07618975B2
(2-Chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine
To a solution of (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-amine (19.4 mg, 0.068 mmol) in 1 mL of DMF cooled at 0° C. was added methyl iodide (100 uL, 1.61 mmol), followed by sodium hydride (60% oil suspension, 5 mg, 0.13 mmol). The mixture was stirred at 0° C. for 1 h, then allowed to warm to room temperature and stirred for 1 h. The reaction mixture was quenched by adding 50 uL of water, diluted with 25 mL of ethyl acetate, washed with water (25 mL×3), saturated NaCl, dried over anhydrous MgSO4, filtered and concentrated. The residue was purified by chromatography (20% ethyl acetate/hexanes) to give the title compound (14.3 mg, 0.048 mmol, 70%). 1H NMR (CDCl3) 8.06 (d, J=2.7 Hz, 1H), 7.57-7.79 (m, 1H), 7.60 (ddd, J=8.1, 6.6 and 1.2 Hz, 1H), 7.44 (dd, J=8.7 and 2.7 Hz, 1H), 7.09 (ddd, J=8.1, 6.6 and 1.2 Hz, 1H), 6.99-7.02 (m, 1H), 6.82 (dd, J=8.7 and 0.6 Hz, 1H), 3.97 (s, 3H), 3.61 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-amine | 0.068 mmol, 19.4 mg | ClC1=NC2=CC=CC=C2C(=N1)NC=1C=NC(=CC1)OC | C14H11ClN4O
reactant | methyl iodide | 1.61 mmol, 100 uL | CI | CH3I
reactant | sodium hydride | 0.13 mmol, 5 mg | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (2-Chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine | 0.048 mmol, 14.3 mg, 70% | ClC1=NC2=CC=CC=C2C(=N1)N(C)C=1C=NC(=CC1)OC | C15H13ClN4O
